US09403798B2
1-(4-Chlorobenzyl)-4-{4-[5-(trifluoromethyl)pyridin-2-yl]piperazin-1-yl}-1,3,5-triazin-2(1H)-one
1-(4-chlorobenzyl)-4-(piperazin-1-yl)-1,3,5-triazin-2(1H)-one (31 mg, 0.10 mmol) synthesized in Reference Synthesis Example 9 and 2-chloro-5-trifluoromethylpyridine (18 mg, 0.10 mmol) in a similar manner to Synthesis Example 76 to obtain the title compound (1.7 mg, yield: 3.7%).

reactant | 1-(4-chlorobenzyl)-4-(piperazin-1-yl)-1,3,5-triazin-2(1H)-one | 0.10 mmol, 31 mg | ClC1=CC=C(CN2C(N=C(N=C2)N2CCNCC2)=O)C=C1 | C14H16ClN5O
reactant | 2-chloro-5-trifluoromethylpyridine | 0.10 mmol, 18 mg | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
product | 1-(4-Chlorobenzyl)-4-{4-[5-(trifluoromethyl)pyridin-2-yl]piperazin-1-yl}-1,3,5-triazin-2(1H)-one | 1.7 mg, yield: 3.7% | ClC1=CC=C(CN2C(N=C(N=C2)N2CCN(CC2)C2=NC=C(C=C2)C(F)(F)F)=O)C=C1 | C20H18ClF3N6O
